US04355032
To a solution of N2 -acetyl-9-(1,3-dibenzyloxy-2-propoxymethyl)guanine (4.62 g, 9.67 mmol) in 150 ml of methanol plus 40 ml of water was added 20% palladium hydroxide on carbon as a slurry in 10 ml of water. The mixture was hydrogenated on a Parr hydrogenator at 60 psi of hydrogen for 38 hours then filtered through celite and concentrated to a white solid. Recrystallization from methanol/ethyl acetate gave 1.4 g of N2 -acetyl-9-(1,3-dihydroxy-2-propoxymethyl)guanine, mp 205°-208° C.

reactant | N2 acetyl-9-(1,3-dibenzyloxy-2-propoxymethyl)guanine | 9.67 mmol, 4.62 g | N#N.C(C)(=O)NC=1NC(C=2N=CN(C2N1)COC(COCC1=CC=CC=C1)COCC1=CC=CC=C1)=O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | water | 10 ml | O | H2O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | N2 acetyl-9-(1,3-dihydroxy-2-propoxymethyl)guanine | 1.4 g | N#N.C(C)(=O)NC=1NC(C=2N=CN(C2N1)COC(CO)CO)=O | InChI=1S/C11H15N5O5.N2/c1-6(19)13-11-14-9-8(10(20)15-11)12-4-16(9)5-21-7(2-17)3-18;1-2/h4,7,17-18H,2-3,5H2,1H3,(H2,13,14,15,19,20);
